US07625900B2
A solution of (190 mg, 1.4 mmol) of 1-methyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine (A21) in THF (10 ml) was added dropwise in the course of 30 min to a suspension of (558 mg, 5.6 mmol) of succinic anhydride in THF (10 ml). The mixture was then stirred for 2 h at RT and concentrated in vacuo. The residue was taken up in chloroform, washed with water and brine, dried over MgSO4 and concentrated in vacuo. 257 mg (0.92 mmol, 54%) of 4-(1-methyl-3,4-dihydropyrrolo[1,2-a]pyrazin-2(1H)-yl)-4-oxobutanoic acid (S4) were obtained.

reactant | 1-methyl-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine | 1.4 mmol, 190 mg | CC1C=2N(CCN1)C=CC2 | C8H12N2
reactant | succinic anhydride | 5.6 mmol, 558 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(1-methyl-3,4-dihydropyrrolo[1,2-a]pyrazin-2(1H)-yl)-4-oxobutanoic acid | 0.92 mmol, 257 mg, 54% | CC1C=2N(CCN1C(CCC(=O)O)=O)C=CC2 | C12H16N2O3
